US06417203B1
tert-Butyl (2R)-2-{[3-(2-{[5-Methyl-4-(2-{[(3-methyl-1H-indol-5-yl)methyl]amino}-2-oxoethyl)-3-oxo-3,4-dihydro-2-pyrazinyl]amino}ethyl)phenoxy]methyl}-1-pyrrolidinecarboxylate
A mixture of 2-[3-[(3-{[(2R)-1-(tert-butoxycarbonyl)pyrrolidinyl]methoxy}phenethyl)amino]-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid (preparation 136) (65 mg, 0.13 mmol), (3-methyl-1H-indol-5-yl)methylamine (preparation 36) (25 mg, 0.16 mmol), HOBT (20 mg, 0.15 mmol), WSCDl.HCl (31 mg, 0.16 mmol) and N-methylmorpholine (40 mg, 0.40 mmol) in N,N-dimethylformamide (2.5 ml), was stirred at room temperature for 20 hrs. The reaction mixture was partitioned between ethyl acetate and water and the phases separated. The organic layer was washed with water, brine, then dried over MgSO4 and evaporated under reduced pressure to give the title compound, (84 mg, 100%).

reactant | 2-[3-[(3-{[(2R)-1-(tert-butoxycarbonyl)pyrrolidinyl]methoxy}phenethyl)amino]-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid | 0.13 mmol, 65 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC=1C=C(CCNC=2C(N(C(=CN2)C)CC(=O)O)=O)C=CC1 | C25H34N4O6
reactant | (3-methyl-1H-indol-5-yl)methylamine | 0.16 mmol, 25 mg | CC1=CNC2=CC=C(C=C12)CN | C10H12N2
reactant | HOBT | 0.15 mmol, 20 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | 0.16 mmol, 31 mg | Cl | ClH
reactant | N-methylmorpholine | 0.40 mmol, 40 mg | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | tert-Butyl (2R)-2-{[3-(2-{[5-Methyl-4-(2-{[(3-methyl-1H-indol-5-yl)methyl]amino}-2-oxoethyl)-3-oxo-3,4-dihydro-2-pyrazinyl]amino}ethyl)phenoxy]methyl}-1-pyrrolidinecarboxylate | 84 mg, 100% | CC=1N(C(C(=NC1)NCCC=1C=C(OC[C@@H]2N(CCC2)C(=O)OC(C)(C)C)C=CC1)=O)CC(=O)NCC=1C=C2C(=CNC2=CC1)C | C35H44N6O5
